US06750226B2
Preparation of Oxofuran-2-yl-acetic Acid 1-azabicyclo[2.2.2]oct-3(R)-yl Ester
Oxalyl chloride (9.75 ml, 0.112 mol) was added to a solution of oxofuran-2-ylacetic acid (10 g, 0.071 mol) and dimethylformamide (one drop) in 150 ml of chloroform (etanol free) at 01C. The mixture was stirred and allowed to warm at room temperature. After five hours the solvent was evaporated. The residue was dissolved in chloroform and evaporated again. This procedure was repeated two times. The product obtained was disolved in CHCl3 (150 ml) and a solution of 3(R)-quinuclidinol (10.90 g, 0.086 mol) in CHCl3 (150 ml) was added to this at 01C. The mixture was stirred and allowed to warm at room temperature. After 15 h at r.t., the mixture was washed with 10% aqueous potassium carbonate, then with water, dried over Na2SO4 and evaporated to give 9.34 g (52.5%) of the title compound as a dark oil. Estructure confirmed by NMR.

reactant | Oxalyl chloride | 0.112 mol, 9.75 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | oxofuran-2-ylacetic acid | 0.071 mol, 10 g | O=C(C(=O)O)C=1OC=CC1 | C6H4O4
reactant | 3(R)-quinuclidinol | 0.086 mol, 10.90 g | N12C[C@@H](C(CC1)CC2)O | C7H13NO
catalyst | dimethylformamide | one drop | CN(C=O)C | C3H7NO
solvent | chloroform | 150 ml | C(Cl)(Cl)Cl | CHCl3
solvent | CHCl3 | 150 ml | C(Cl)(Cl)Cl | CHCl3
solvent | CHCl3 | 150 ml | C(Cl)(Cl)Cl | CHCl3
product | Oxofuran-2-yl-acetic Acid 1-azabicyclo[2.2.2]oct-3(R)-yl Ester | 9.34 g, 52.5% | N12C[C@@H](C(CC1)CC2)OC(C(C=2OC=CC2)=O)=O | C13H15NO4
